US08222243B2
((R)-2-Hydroxymethyl-piperazin-1-yl)-[5-(4-methyl-5-trifluoromethyl -isoxazol-3-yl) -thiophen-2-yl]-methanone, hydrochloride
Prepared from 5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carboxylic acid and 4-N-Boc-2-(R)-hydroxymethyl-piperazine by the method described in Example 2 Method B. The reaction mixture was evaporated to a solid, triturated and filtered with the aid of water, then washed with a 1 N aqueous hydrochloric acid solution followed by water. The solid was air dried afford intermediate N-Boc protected product as a colorless solid (102 mg, 86%). The Boc-protected intermediate was dissolved in a 4 N solution of hydrogen chloride in 1,4,-dioxane (2 mL) and stirred for 2 hr, after which time the reaction mixture was evaporated to approximately ¼ volume and diluted with ethyl ether (4 mL). The resulting solids were filtered and air dried to afford product as a colorless solid (85 mg, 83% overall). 1H NMR (D2O) 2.17 (s, 3 H), 3.26-3.46 (m, 3 H), 3.60-3.80 (m, 3 H), 4.00-4.04 (m, 1 H), 4.48 (dd, J=12.7, 5.3, 1 H), 4.60 (obs dd, J=13.2, 3.5, 1 H), 7.46 (d, J=4.3, 1 H), 7.82 (d, J=4.0, 1 H). 19F NMR −63.5. LC/MS 3.89 min, [M+1]+ 376.

reactant | 5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carboxylic acid | CC=1C(=NOC1C(F)(F)F)C1=CC=C(S1)C(=O)O | C10H6F3NO3S
reactant | 4-N-Boc-2-(R)-hydroxymethyl-piperazine | C(=O)(OC(C)(C)C)N1C[C@@H](NCC1)CO | C10H20N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4,-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | ((R)-2-Hydroxymethyl-piperazin-1-yl)-[5-(4-methyl-5-trifluoromethyl -isoxazol-3-yl) -thiophen-2-yl]-methanone, hydrochloride | 85 mg, 83% | Cl.OC[C@@H]1N(CCNC1)C(=O)C=1SC(=CC1)C1=NOC(=C1C)C(F)(F)F | InChI=1S/C15H16F3N3O3S.ClH/c1-8-12(20-24-13(8)15(16,17)18)10-2-3-11(25-10)14(23)21-5-4-19-6-9(21)7-22;/h2-3,9,19,22H,4-7H2,1H3;1H/t9-;/m1./s1
